US07138410B2
(3R)-N-[4′-(Hydroxymethyl)-3′-fluoro-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]octane-3-carboxamide
492 mg (1.62) of bis(pinacolato)diboron, 804 mg (5.82 mmol) of dry potassium carbonate, and 398 mg (1.94 mmol) of (4-bromo-2-fluorophenyl)methanol are dissolved in 4.2 ml of DMF. Argon is passed through the reaction mixture for 15 minutes, and then 59 mg (0.08 mmol) of PdCl2(dppf) are added, and the mixture is heated at 85° C. overnight. Then, 500 mg (1.62 mmol) of (3R)-N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide, 8.1 ml of 1N sodium hydroxide solution and a further 59 mg (0.02 mmol) of PdCl2(dppf) are added. The mixture is heated at 85° C. overnight. The solvent is removed under reduced pressure. The crude product is purified by preparative HPLC. 21 mg (3% of theory) of the title compound are obtained.

reactant | bis(pinacolato)diboron | 492 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium carbonate | 5.82 mmol, 804 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4-bromo-2-fluorophenyl)methanol | 1.94 mmol, 398 mg | BrC1=CC(=C(C=C1)CO)F | C7H6BrFO
reactant | (3R)-N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide | 1.62 mmol, 500 mg | BrC1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2 | C14H17BrN2O
reactant | sodium hydroxide | 1N, 8.1 ml | [OH-].[Na+]
solvent | DMF | 4.2 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.08 mmol, 59 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf) | 0.02 mmol, 59 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (3R)-N-[4′-(Hydroxymethyl)-3′-fluoro-1,1′-biphenyl-4-yl]-1-azabicyclo[2.2.2]octane-3-carboxamide | OCC1=C(C=C(C=C1)C1=CC=C(C=C1)NC(=O)[C@H]1CN2CCC1CC2)F | C21H23FN2O2
